US06903215B2
To a chilled (−78° C.) solution of 5.2 mL (30.18 mmol) of 2-bromoallyltrimethylsilane and 5.3 g (31.16 mmol) of ethyl trifluoropyruvate in 75 mL of dichloromethane was added 30 mL (30 mmol) of a 1 M solution of titanium tetrachloride in dichloromethane over a 10 minute period. The cold bath was then removed and the mixture was warmed to room temperature. After 3 hours, the mixture was cautiously added to 100 mL of saturated aqueous ammonium chloride and filtered through diatomaceous earth, washing with dichloromethane. The dichloromethane was separated and the aqueous layer was extracted with three 50 mL portions of dichloromethane. The combined organic layers were washed with two 50 mL portions of saturated aqueous sodium bicarbonate, 50 mL of brine, dried over magnesium sulfate, filtered, and concentrated to afford 6.7 g (76%) of 4-bromo-2-hydroxy-2-trifluoromethylpent-4-enoic acid ethyl ester as a yellow oil which was used without further purification.

reactant | 2-bromoallyltrimethylsilane | 30.18 mmol, 5.2 mL | BrC(C[Si](C)(C)C)=C | C6H13BrSi
reactant | ethyl trifluoropyruvate | 31.16 mmol, 5.3 g | FC(C(C(=O)OCC)=O)(F)F | C5H5F3O3
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
catalyst | titanium tetrachloride | [Ti](Cl)(Cl)(Cl)Cl
product | 4-bromo-2-hydroxy-2-trifluoromethylpent-4-enoic acid ethyl ester | 6.7 g, 76% | C(C)OC(C(CC(=C)Br)(C(F)(F)F)O)=O | C8H10BrF3O3
